US05091397
4-[(1,3-Oxazol-2-yl)methyl]-1-azabicyclo[2.2.1]heptane oxalate salt (E14)
4(Aminocarbonylmethyl)-1-azabicyclo[2.2.1]heptane (D27) (350mg, 0.00227 mole) in polyphosphoric acid (15g) was treated with vinylene carbonate (292mg, 0.0034 mole) with continuous stirring and the solution heated on an oil bath at 120° C. for 1.5h. The reaction was then allowed to cool and poured into aqueous saturated potassium carbonate solution. The product was recovered by extraction into chloroform. The organic phase was separated, dried over sodium sulphate and concentrated in vacuo to a gum (48mg). The gum was dissolved in ether, filtered through a short column of decolourising charcoal and treated with oxalic acid (25mg) in methanol. The solution was allowed to crystallise to afford the title compound (E14) (45mg, 0.00017 moles, 7%) as needles. M.pt. 140-143° C.

reactant | 4(Aminocarbonylmethyl)-1-azabicyclo[2.2.1]heptane | 0.00227 mole, 350mg | NC(=O)CC12CCN(CC1)C2 | C8H14N2O
reactant | vinylene carbonate | 0.0034 mole, 292mg | C1(OC=CO1)=O | C3H2O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 4-[(1,3-Oxazol-2-yl)methyl]-1-azabicyclo[2.2.1]heptane oxalate salt | 0.00017 moles, 45mg, 7% | C(C(=O)O)(=O)O.O1C(=NC=C1)CC12CCN(CC1)C2 | InChI=1S/C10H14N2O.C2H2O4/c1-4-12-5-2-10(1,8-12)7-9-11-3-6-13-9;3-1(4)2(5)6/h3,6H,1-2,4-5,7-8H2;(H,3,4)(H,5,6)
